US06951879B2
In analogy to example 27.1, 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol and 1,3-dibromopropane were converted to yield 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[b]thiophene, MS: 424 (M, 2Br).

reactant | 3-(4-Bromo-phenyl)-benzo[b]thiophen-6-ol | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)O | C14H9BrOS
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[b]thiophene | BrC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCBr | C17H14Br2OS
